US09145441B2
A solution of (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methylbutyrylamino)-propionyl]-hexahydropyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester (316 mg, 0.59 mmol) in anhydrous dichloromethane (10 mL) was cooled to 0° C. under a nitrogen atmosphere before adding trimethylsilyl trifluoromethanesulfonate (160 μL, 0.885 mmol). The reaction mixture was stirred at 0° C. for 2 h before adding N,N-diisopropylethylamine (413 μl, 2.36 mmol) to afford (S)-1-[(S)-2-((S)-2-amino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester. The mixture was evaporated and the residue dissolved with (2R,3R)-3-methoxy-2-methyl-hept-6-enoic acid (162 mg, 0.94 mmol.) in acetonitrile (13 mL) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (250 mg, 1.32 mmol) and 1-hydroxybenzotriazole (220 mg, 1.32 mmol) were added. The reaction was stirred at RT for 15 h then evaporated to give a yellow oil. The oil was purified by silica gel chromatography using ethyl acetate to give the title compound (425 mg, 77%) as a white solid.

reactant | (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methylbutyrylamino)-propionyl]-hexahydropyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester | 0.59 mmol, 316 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(Cl)Cl | C20H33Cl3N4O6
reactant | trimethylsilyl trifluoromethanesulfonate | 0.885 mmol, 160 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N,N-diisopropylethylamine | 2.36 mmol, 413 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-1-[(S)-2-((S)-2-amino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloroethyl ester | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)N)=O)=O)(Cl)Cl | C15H25Cl3N4O4
